US06486333B1
Synthesis of N,N-dimethyl-N-(3-methyl-4-isopropylphenyl)oxycarbonylmethyl-N-(3-(octadecanoylamino)propyl)ammonium chloride
A 33.18 g (0.090 mol) portion of N-octadecanoyl-N′,N′-dimethyl-1,3-diaminopropane and 120 ml of chloroform were put into a flask, and 22.44 g (0.099 mol) of 3-methyl-4-isopropylphenyl chloroacetate was added thereto at 25° C. spending 5 minutes. The reaction mixture was stirred at 25° C. for 36 hours and then, after confirming disappearance of the most part of chloroacetate by 1H-NMR, the solvent was evaporated under a reduced pressure. The thus obtained viscous oil was dissolved in 300 ml of acetone and cooled to 5 to 10° C. to effect precipitation of a white precipitate. Thereafter, in the same manner as described in Inventive Example 1, the title compound (to be referred to as betaine ester (12) hereinafter) was obtained as a white solid. Yield 41.80 g (0.070 mol; yield 78.0%).

reactant | N-octadecanoyl-N′,N′-dimethyl-1,3-diaminopropane | C(CCCCCCCCCCCCCCCCC)(=O)NCCCN(C)C | C23H48N2O
reactant | 3-methyl-4-isopropylphenyl chloroacetate | 0.099 mol, 22.44 g | ClCC(=O)OC1=CC(=C(C=C1)C(C)C)C | C12H15ClO2
reactant | chloroacetate | ClCC(=O)[O-]
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-dimethyl-N-(3-methyl-4-isopropylphenyl)oxycarbonylmethyl-N-(3-(octadecanoylamino)propyl)ammonium chloride | yield 78.0% | [Cl-].C[N+](CCCNC(CCCCCCCCCCCCCCCCC)=O)(CC(=O)OC1=CC(=C(C=C1)C(C)C)C)C | InChI=1S/C35H62N2O3.ClH/c1-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-23-34(38)36-26-22-27-37(5,6)29-35(39)40-32-24-25-33(30(2)3)31(4)28-32;/h24-25,28,30H,7-23,26-27,29H2,1-6H3;1H
